US07947834B2
3.72 g of tert-butyl 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxylate, dissolved in 18.2 ml of dioxane, are introduced into a 250 ml round-bottomed flask. 34.1 ml of a 4N solution of hydrochloric acid in dioxane are subsequently added. Stirring is maintained for three hours. After evaporating, the residue is taken up in dichloromethane and a saturated aqueous sodium hydrogencarbonate solution and then the aqueous phase is extracted three times with dichloromethane. The organic phases are combined and dried over sodium sulfate and the solvent is evaporated under reduced pressure. 2.6 g of 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline are obtained.

reactant | tert-butyl 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxylate | 3.72 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C23H28N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 18.2 ml | O1CCOCC1 | C4H8O2
product | 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 2.6 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCNC2=CC=CC=C12 | C18H20N4O
